US05831114
1-(3-Cyanophenoxy)-2-Butanol (Intermediate)
is obtained analogously to Example H1 by using 20.7 g of 3-cyanophenol, 13.8 g of α-butylene oxide and 0.5 g of lithium hydroxide monohydrate in a yield of 25.9 g in the form of an oil; b.p. 116°-118° C./0.04 torr.

reactant | 3-cyanophenol | 20.7 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | α-butylene oxide | 13.8 g | CCC1CO1 | C4H8O
reactant | lithium hydroxide monohydrate | 0.5 g | O.[OH-].[Li+]
product | 1-(3-Cyanophenoxy)-2-Butanol | C(#N)C=1C=C(OCC(CC)O)C=CC1 | C11H13NO2
